US04971970
1-Cyclopropyl-6-fluoro-7-(3-methyl-1-piperazinyl)5-methyl-4-oxo-1,2,3,4-tetrahydroquinoline (5.7 g) is dissolved in dichloromethane (200 ml) and thereto is added gradually sodium methylate (6.8 g) and further added dropwise a solution of ethyl formate (9.3 g) in dichloromethane (100 ml). The mixture is stirred at room temperature for one hour and then refluxed for one hour. After cooling, the reaction mixture is washed with water (200 ml) and dilute aqueous sodium hydroxide solution (200 ml) and extracted. The aqueous layer is taken and is made weakly acidic with diluted hydrochloric acid and extracted with dichloromethane. The extract is washed with water, dried and then dichloromethane is distilled off. The resulting residue is purified by silica gel column chromatography (eluent, chloroform) and recrystallized from diethyl ether - isopropanol to give 1-cyclopropyl-6-fluoro-7-(4-formyl-3-methyl-1-piperazinyl)-5-methyl-4-oxo-3-formyl1,2,3,4-tetrahydroquinoline (4.4 g) as yellow powdery crystals, m.p. 148°-150° C.

reactant | 1-Cyclopropyl-6-fluoro-7-(3-methyl-1-piperazinyl)5-methyl-4-oxo-1,2,3,4-tetrahydroquinoline | 5.7 g | C1(CC1)N1CCC(C2=C(C(=C(C=C12)N1CC(NCC1)C)F)C)=O | C18H24FN3O
reactant | sodium methylate | 6.8 g | C[O-].[Na+]
reactant | ethyl formate | 9.3 g | C(=O)OCC | C3H6O2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-cyclopropyl-6-fluoro-7-(4-formyl-3-methyl-1-piperazinyl)-5-methyl-4-oxo-3-formyl1,2,3,4-tetrahydroquinoline | 4.4 g | C1(CC1)N1CC(C(C2=C(C(=C(C=C12)N1CC(N(CC1)C=O)C)F)C)=O)C=O | C20H24FN3O3
